US08455475B2
Pyrrolidin-1-yl(3-azaspiro[5.5]undecan-9-yl)methanone hydrochloride
Ethanol (4 ml) and acetyl chloride (0.23 ml, 0.66 mmol) were added to tert-butyl 9-(pyrrolidine-1-carbonyl)-3-azaspiro[5.5]undecane-3-carboxylate (0.25 g, 0.788 mmol) and the mixture was stirred at room temperature for 12 h. When the reaction was complete, the solvent was removed in vacuo. Yield: 0.18 g (96%)

reactant | acetyl chloride | 0.66 mmol, 0.23 ml | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 9-(pyrrolidine-1-carbonyl)-3-azaspiro[5.5]undecane-3-carboxylate | 0.788 mmol, 0.25 g | N1(CCCC1)C(=O)C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C20H34N2O3
solvent | Ethanol | 4 ml | C(C)O | C2H6O
product | Pyrrolidin-1-yl(3-azaspiro[5.5]undecan-9-yl)methanone hydrochloride | Cl.N1(CCCC1)C(=O)C1CCC2(CCNCC2)CC1 | InChI=1S/C15H26N2O.ClH/c18-14(17-11-1-2-12-17)13-3-5-15(6-4-13)7-9-16-10-8-15;/h13,16H,1-12H2;1H
